US04062798
A mixture of 6.0 g. of 4'-n-hexyl-4-biphenyl-amidine hydrochloride and 4.9 g. of ethoxymethylene-malonic acid diethyl ester is stirred in a sodium ethylate solution, from 0.867 g. of sodium and 80 ml. of ethanol, for 40 minutes at room temperature and 40 minutes under reflux. After this, the yellow reaction mixture is evaporated in vacuo and the residue is suspended in 95 ml. of water and acidified with 15 ml. of glacial acetic acid. Filtering, washing with water and drying yields crude 2-(4'-n-hexyl-4-biphenylyl)-4-hydroxy-pyrimidine-5-carboxylic acid ethyl ester which can be sublimed at 185° in high vacuum for purification, m.p. 218.0°.

reactant | 4'-n-hexyl-4-biphenyl-amidine hydrochloride | Cl.C(CCCCC)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=N)N
reactant | ethoxymethylene-malonic acid diethyl ester | C(C)OC(C(C(=O)OCC)=COCC)=O | C10H16O5
reactant | sodium ethylate solution | CC[O-].[Na+]
reactant | sodium | [Na] | Na
solvent | ethanol | C(C)O | C2H6O
product | 2-(4'-n-hexyl-4-biphenylyl)-4-hydroxy-pyrimidine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NC(=NC1)C1=CC=C(C=C1)C1=CC=C(C=C1)CCCCCC)O | C25H28N2O3
